US06521666B1
2,6-Dimethoxy-3-(hydroxymethyl)benzeneboronic acid was coupled with N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester in a similar method as described in Example 7-2) to give N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-3-(hydroxymethyl)phenyl]-L-phenylalanine ethyl ester.

reactant | 2,6-Dimethoxy-3-(hydroxymethyl)benzeneboronic acid | COC1=C(C(=CC=C1CO)OC)B(O)O | C9H13BO5
reactant | N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)Br)=O | C18H16BrCl2NO3
product | N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-3-(hydroxymethyl)phenyl]-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C(=CC=C1OC)CO)OC)=O | C27H27Cl2NO6
